US05223498
A mixture of 1-ethyl-3-(2-morpholinophenyl) thiourea (3.2 g) and methyliodide (2 g) in acetone (25 ml) was heated at reflux for 4 hours to yield 2-methyl-3-ethyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide as a pale yellow solid (m.p. 170°-172° C. which was recrystallised from acetone.

reactant | 1-ethyl-3-(2-morpholinophenyl) thiourea | 3.2 g | C(C)NC(=S)NC1=C(C=CC=C1)N1CCOCC1 | C13H19N3OS
reactant | methyliodide | 2 g | CI | CH3I
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 2-methyl-3-ethyl-1-(2-morpholinophenyl)-2-thiopseudourea hydroiodide | I.CSC(NC1=C(C=CC=C1)N1CCOCC1)=NCC | InChI=1S/C14H21N3OS.HI/c1-3-15-14(19-2)16-12-6-4-5-7-13(12)17-8-10-18-11-9-17;/h4-7H,3,8-11H2,1-2H3,(H,15,16);1H
